US04970218
N-(3-Nitro-4-pyridinyl)-1H-indol-1-amine
The title compound was prepared from 1H-indol-1-amine and 4-chloro-3-nitropyridine in ethanol at 70° C. for 3 hours in substantially the same manner as in Example 1. Recrystallized from ethanol, m.p. 170°-172° C.

reactant | 1H-indol-1-amine | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | C(C)O | C2H6O
product | N-(3-Nitro-4-pyridinyl)-1H-indol-1-amine | [N+](=O)([O-])C=1C=NC=CC1NN1C=CC2=CC=CC=C12 | C13H10N4O2
